US05834454
A mixture of ethylene glycol monobenzyl ether (36 ml, 252 mmol), 60% sodium hydride (11.0 g, 275 mmol) and N,N-dimethylformamide (300 ml) was stirred at room temperature for 1.5 hours. To the resulting suspension was added dropwise a solution of ethyl bromoacetate (34 ml, 302 mmol) in N,N-dimethylformamide (50 ml), followed by stirring at room temperature for another 3 hours. The reaction mixture was poured into a 10% aqueous sodium chloride solution and extracted with ethylacetate, and the extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate : n-hexane= 9:95) to obtain 18.5 g of ethyl (2-benzyloxyethoxy)acetate as a colorless oil.

reactant | ethylene glycol monobenzyl ether | 252 mmol, 36 ml | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | sodium hydride | 275 mmol, 11.0 g | [H-].[Na+]
reactant | ethyl bromoacetate | 302 mmol, 34 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl (2-benzyloxyethoxy)acetate | 18.5 g | C(C1=CC=CC=C1)OCCOCC(=O)OCC | C13H18O4
